US05854234
N-(2-butenyl)-2,2,2-trichloroacetamide
A solution of 3-butene-2-ol (8.7 mL, 100 mmol) in THF (50 mL) was added to potassium hydride (KH, 600 mg, 15 mmol) over 15 min. The resulting alkoxide solution was added to a stirred solution of trichloroacetonitrile (10.03 mL, 100 mmol) in ether (100 mL) at -10° C. The solution was stirred at 0° C. for 3 h, followed by removal of solvent under reduced pressure (temperature <25° C.); pentane (400 mL) and methanol (1 mL) were added, and the mixture filtered. Concentration afforded a yellow oil (17.4 g). The oil was dissolved in xylene (450 mL) and refluxed for 2.5 h. The solvent was removed to yield 16.8 g of the title compound as a white solid.

reactant | 3-butene-2-ol | 100 mmol, 8.7 mL | CC(C=C)O | C4H8O
reactant | potassium hydride | 15 mmol, 600 mg | [H-].[K+]
reactant | trichloroacetonitrile | 100 mmol, 10.03 mL | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | N-(2-butenyl)-2,2,2-trichloroacetamide | 17.4 g | C(C=CC)NC(C(Cl)(Cl)Cl)=O | C6H8Cl3NO
